US04880937
The reaction between cyclohexane carboxylic acid and isopropanol was conducted under the same conditions as in Example 1, except that 1 g of hydrous tin oxide catalyst prepared in Example C was used in place of 2 g of the hydrous zirconium oxide catalyst used in Example 1. It was discovered by gas chromatography that cyclohexyl methanol was formed at a conversion rate of 95% and selectivity of 39%. Isopropyl cyclohexane carboxylic acid was also obtained as a by-product in an amount of 41%.

reactant | cyclohexane carboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
reactant | cyclohexyl methanol | C1(CCCCC1)CO | C7H14O
catalyst | tin oxide | 1 g | [Sn]=O
solvent | isopropanol | C(C)(C)O | C3H8O
product | Isopropyl cyclohexane carboxylic acid | C(C)(C)C1(CCCCC1)C(=O)O | C10H18O2
